US07723333B2
[3-(Pyridin-2-yloxy)propyl]amine
3-Aminopropan-1-ol (0.28 ml, 3.64 mmol) was added to a mixture of NaH 60% dispersion in mineral oil (16 mg, 4.11 mmol) in dry THF (8 ml) at rt. The resulting mixture was heated at reflux for 35 mins and cooled to rt before 2-bromopyridine (0.50 g, 3.16 mmol) was added. The mixture was then refluxed for 2 h 20 mins and stirred at rt for another 17 h before more NaH (127 mg, 3.16 mmol) was added and the mixture heated at reflux for 3 h. The mixture was evaporated to dryness, water was added, and the mixture was acidified to pH5 with 1N HCl and washed with DCM. The aqueous phase was then basified to pH4 and extracted again with DCM. The organic extracts were combined and evaporated to give the title compound (0.206 g, 43%) as an oil. 1H NMR (500 MHz CDCl3): 8.17-8.12 (m, 1H), 7.58-7.53 (m, 1H), 6.67-6.63 (m, 1H), 6.72 (d, 1H), 4.39 (t, 2H), 2.88 (t, 2H), 1.93 (quintet, 2H). 13C NMR (125 MHz CDCl3): 164.1, 147.1, 138.7, 116.8, 111.3, 63.8, 39.5, 33.3.

reactant | 3-Aminopropan-1-ol | 3.64 mmol, 0.28 ml | NCCCO | C3H9NO
reactant | NaH | [H-].[Na+]
reactant | 2-bromopyridine | 3.16 mmol, 0.50 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | NaH | 3.16 mmol, 127 mg | [H-].[Na+]
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | [3-(Pyridin-2-yloxy)propyl]amine | 0.206 g, 43% | N1=C(C=CC=C1)OCCCN | C8H12N2O
